US06727264B1
1-(2-PYRIDINYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 2-iodopyridine and 1H-indole: ESMS m/e: 195.0 (M+H)+.

reactant | 2-iodopyridine | IC1=NC=CC=C1 | C5H4IN
reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 1-(2-PYRIDINYL)-1H-INDOLE | N1=C(C=CC=C1)N1C=CC2=CC=CC=C12 | C13H10N2
